US09403823B2
Step 2: General protocol for the preparation of 5-nitro-1H-pyrrolo[2,3-b]pyridine-2-carboxylic acid methylamide
5-nitro-1H-pyrrolo[2,3-b]pyridine-2-carboxylic acid (1.3 g, 6.5 mmoles), HATU (1.2 eq) and DIEA (5 eq) were dissolved in dry DMF under argon. After stirring at RT for 15 minutes, methylamine hydrochloride (3 eq) was added and the mixture was allowed to stir at RT overnight. The mixture was concentrated and washed by a saturated solution of sodium carbonate. The precipitate was filtered off, washed with water and diethyl ether to obtain a brownish solid (1.1 g, 5 mmoles). Yield=77%. ESI-MS: m/z 221 ([M+H]+). HPLC purity: 98%.

reactant | 5-nitro-1H-pyrrolo[2,3-b]pyridine-2-carboxylic acid | 6.5 mmoles, 1.3 g | [N+](=O)([O-])C=1C=C2C(=NC1)NC(=C2)C(=O)O | C8H5N3O4
reactant | HATU | 1.2 eq | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIEA | 5 eq | CCN(C(C)C)C(C)C | C8H19N
reactant | methylamine hydrochloride | 3 eq | Cl.CN
solvent | DMF | CN(C)C=O | C3H7NO
product | 5-nitro-1H-pyrrolo[2,3-b]pyridine-2-carboxylic acid methylamide | 5 mmoles, 1.1 g, Yield=77% | CNC(=O)C1=CC=2C(=NC=C(C2)[N+](=O)[O-])N1 | C9H8N4O3
